US05455252
2-bromo-4-(cyclopentylmethyl)aniline and 3-nitrobenzene boronic acid can be combined to form 2-(3-nitrophenyl)-4-(cyclopentylmethyl)aniline.

reactant | 2-bromo-4-(cyclopentylmethyl)aniline | BrC1=C(N)C=CC(=C1)CC1CCCC1 | C12H16BrN
reactant | 3-nitrobenzene boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 2-(3-nitrophenyl)-4-(cyclopentylmethyl)aniline | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(N)C=CC(=C1)CC1CCCC1 | C18H20N2O2
